US07582761B2
(a) (3R)-1-(3,5-Dichloro-pyridin-2-yl)-3-methyl-piperazine
2,3,5-Trichloro-pyridine (910 mg, 5.0 mmol, Aldrich) and (R)-(−)-2-methyl-piperazine (700 mg, 7.0 mmol, Aldrich) reacted under the conditions of Example 3a to give the title compound as a light-yellow solid. MS (ESI, pos. ion) m/z: 247 (M+1).

reactant | 2,3,5-Trichloro-pyridine | 5.0 mmol, 910 mg | ClC1=NC=C(C=C1Cl)Cl | C5H2Cl3N
reactant | (R)-(−)-2-methyl-piperazine | 7.0 mmol, 700 mg | C[C@H]1NCCNC1 | C5H12N2
product | (3R)-1-(3,5-Dichloro-pyridin-2-yl)-3-methyl-piperazine | ClC=1C(=NC=C(C1)Cl)N1C[C@H](NCC1)C | C10H13Cl2N3
